US06498174B1
Intermediate 1C: 2-[2-phenyl-5-propyl-1,3-oxazol-4-yl]acetic acid ethyl ester
The title compound was prepared (as described above for the preparation of example 1) from ethyl 4-bromo-3-oxo-heptanoate (2.83 g, 11.4 mmol) and 5.51 g (45 mmol) of benzamide to give 820 mg of Intermediate IC: TLC Rf=0.70 (2/1 hexanes/EtOAc); 1H NMR (CDCl3, 300 MHz) δ7.98 (m, 2H), 7.43-7.4 (m, 3H), 4.18 (q, 2H, J=7.2), 3.56 (s, 2H), 2.66 (t, 2H, J=7.5), 1.76-1.68 (m, 2H), 1.27 (t, 3H, J=7.2), 0.99 (t, 3H, J=7.2); low resolution MS (ES+)m/e 274.1 (MH+).

reactant | ethyl 4-bromo-3-oxo-heptanoate | 11.4 mmol, 2.83 g | BrC(C(CC(=O)OCC)=O)CCC | C9H15BrO3
reactant | benzamide | 45 mmol, 5.51 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | 2-[2-phenyl-5-propyl-1,3-oxazol-4-yl]acetic acid ethyl ester | C(C)OC(CC=1N=C(OC1CCC)C1=CC=CC=C1)=O | C16H19NO3
